US07465795B2
4-amino-8-(6-methylpyridin-3-yl)-N-propylcinnoline-3-carboxamide
Using method C, 4-amino-8-iodo-N-propyl-cinnoline-3-carboxamide (178 mg, 0.500 mmol) and 2-methyl-5-(trimethylstannyl)pyridine (270 mg, 1.058 mmol) were reacted to afford the title compound (123 mg, 76% yield). 1H NMR (300 MHz, CDCl3) δ 8.75 (bs, 1H), 8.55 (br, 1H), 8.03 (m, 1H), 7.91 (m, 1H), 7.84-7.70 (m, 2H), 7.30 (m, 1H), 3.47 (apparent quartet, J=7.0 Hz, 2H), 2.64 (s, 3H), 1.67 (apparent sextet, J=7.0 Hz, 2H), 1.01 (t, J=7.0 Hz, 3H). MS APCI, m/z=322 (M+H). HPLC 1.41 min.

reactant | 4-amino-8-iodo-N-propyl-cinnoline-3-carboxamide | 0.500 mmol, 178 mg | NC1=C(N=NC2=C(C=CC=C12)I)C(=O)NCCC | C12H13IN4O
reactant | 2-methyl-5-(trimethylstannyl)pyridine | 1.058 mmol, 270 mg | CC1=NC=C(C=C1)[Sn](C)(C)C
product | 4-amino-8-(6-methylpyridin-3-yl)-N-propylcinnoline-3-carboxamide | 123 mg, 76% yield | NC1=C(N=NC2=C(C=CC=C12)C=1C=NC(=CC1)C)C(=O)NCCC | C18H19N5O
